* gnetlist -g spice-noqsi -o test_inverter.net test_inverter.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
.INCLUDE ./simulation.cmd
.INCLUDE ./submicron.inc
X1 IN OUT  INV1 
V1 IN GND pulse 0 'SUPPLY' 50p 0p 0p 100p 200p
.GLOBAL Vdd Vss
V3 Vdd GND 5V
V2 Vss GND 0V
.param SUPPLY=5
*
*
.temp 70
.option scale=90n
.option post
